US09388176B2
Methyl-4-(3-dimethylaminomethylene-4-oxopiperidin-1-yl)-benzoate
A solution of methyl-4-(4-oxopiperidin-1-yl)-benzoate (4.06 g, 17.40 mmol) and DMF-dimethylacetal (9.32 mL, 69.61 mmol) in 1,4-dioxane (100 mL) was refluxed for 40 hours. The reaction mixture was concentrated and the residue was eluted through a flash column (silica gel 60, 230-400 mesh, 5% MeOH in EtOAc to 8% MeOH in EtOAc) to obtain the title compound as an orange, crystalline solid (3.00 g, 60%).

reactant | methyl-4-(4-oxopiperidin-1-yl)-benzoate | 17.40 mmol, 4.06 g | COC(C1=CC=C(C=C1)N1CCC(CC1)=O)=O | C13H15NO3
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | Methyl-4-(3-dimethylaminomethylene-4-oxopiperidin-1-yl)-benzoate | COC(C1=CC=C(C=C1)N1CC(C(CC1)=O)=CN(C)C)=O | C16H20N2O3
